US05710173
Reaction of 3-phenoxythiophen-2-carboxaldehyde and 3-trifluoromethylphenylsulfonylacetonitrile as in Example 1 gave (E)-3-(3-phenoxythien-2-yl)-2-[3-(trifluoromethyl)phenylsulfonyl]acrylonitrile

reactant | 3-phenoxythiophen-2-carboxaldehyde | O(C1=CC=CC=C1)C1=C(SC=C1)C=O | C11H8O2S
reactant | 3-trifluoromethylphenylsulfonylacetonitrile | FC(C=1C=C(C=CC1)S(=O)(=O)CC#N)(F)F | C9H6F3NO2S
product | (E)-3-(3-phenoxythien-2-yl)-2-[3-(trifluoromethyl)phenylsulfonyl]acrylonitrile | O(C1=CC=CC=C1)C1=C(SC=C1)/C=C(\C#N)/S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C20H12F3NO3S2
